US07910561B2
6-Methyl-3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]-methyl}phenyl)-1,6-naphthyridin-5(6H)-one (3-7)
To a solution of 2-(3-piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine dihydrochloride (142 mg, 10.47 mmol) and 4-(6-methyl-5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl)benzaldehyde (5141 mg, 0.415 mmol) in dry DMF (1.5 mL) was added triethylamine (0.21 mL, 1.5 mmol). After stirring for 10 minutes acetic acid (0.26 mL, 4.5 mmol) was added and the mixture was stirred at room temperature over night. Then sodium triacetoxy borohydride (110 mg, 0.52 mmol) was added in one portion and stirred for eight hours. After monitoring by LC/MS determined the reaction was not complete additional sodium triacetoxy borohydride (46 mg, 0.21 mmol)) were added and the reaction was stirred over night. This reaction mixture was adsorbed on silica gel and purified by column chromatography eluting with 1-7% methanol/ethyl acetate (sat'd NH3). The appropriate fractions were combined, the solvents removed in vacuo, and the residue digested in acetonitrile containing a little methanol to give pure title compound. 1H NMR (500 MHz, CDCl3): δ 8.69 (1H, s), 8.65 (1H, d, J=4.4 Hz), 8.15 (1H, d, J=7.8 Hz), 7.83 (1H, t, J=7.6 Hz), 7.31-7.39 (5H, m), 7.22-7.25 (6H, m), 6.86 (1H, d, J=6.5 Hz), 3.66 (3H, s), 3.53 (2H, s), 2.95 (2H, br d, J=10.7 Hz), 2.85 (1H, m), 2.06-2.15 (4H, m), 1.92-2.01 (2H, m). m/e (m+1): 554.3, 277.9 [(m+2)/2].

reactant | 2-(3-piperidin-4-yl-1H-1,2,4-triazol-5-yl)pyridine dihydrochloride | 10.47 mmol, 142 mg | Cl.Cl.N1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1
reactant | 4-(6-methyl-5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl)benzaldehyde | 0.415 mmol, 5141 mg | CN1C(C=2C=C(C(=NC2C=C1)C1=CC=C(C=O)C=C1)C1=CC=CC=C1)=O | C22H16N2O2
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 4.5 mmol, 0.26 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 0.52 mmol, 110 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxy borohydride | 0.21 mmol, 46 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 6-Methyl-3-phenyl-2-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]-methyl}phenyl)-1,6-naphthyridin-5(6H)-one | CN1C(C=2C=C(C(=NC2C=C1)C1=CC=C(C=C1)CN1CCC(CC1)C1=NNC(=N1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C34H31N7O
